US06498170B2
(2S)-1-[1-(4-Butoxy-benzenesulfonyl)-pyrrolidin-3-ylamino]-3-(9H-carbazol-4-yloxy)-propan-2-ol
To a solution of 1-{Benzyl-[1-(4-butoxy-benzenesulfonyl)-pyrrolidin-3-yl]-amino}-3-(9H-carbazol-4-yloxy)-propan-2-ol (0.19 g, 0.3 mmol) in methanol (2 ml) was added ammonium formate (0.29 g, 4.5 mmol), and 45 mg of 10% Pd/C. The mixture was stirred at reflux for 18 h. After cooling to room temperature, it was filtered through Celite. The solvent was evaporated and the residue triturated with ether-hexanes to give 0.15 g of a white solid; m.p. 118-119° C.; MS (ES) m/z 538.1 (MH+).

reactant | 1-{Benzyl-[1-(4-butoxy-benzenesulfonyl)-pyrrolidin-3-yl]-amino}-3-(9H-carbazol-4-yloxy)-propan-2-ol | 0.3 mmol, 0.19 g | C(C1=CC=CC=C1)N(CC(COC1=CC=CC=2NC3=CC=CC=C3C12)O)C1CN(CC1)S(=O)(=O)C1=CC=C(C=C1)OCCCC | C36H41N3O5S
reactant | ammonium formate | 4.5 mmol, 0.29 g | C(=O)[O-].[NH4+]
solvent | methanol | 2 ml | CO | CH4O
catalyst | Pd/C | 45 mg | [Pd] | Pd
product | (2S)-1-[1-(4-Butoxy-benzenesulfonyl)-pyrrolidin-3-ylamino]-3-(9H-carbazol-4-yloxy)-propan-2-ol | 0.15 g | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)N1CC(CC1)NC[C@@H](COC1=CC=CC=2NC3=CC=CC=C3C12)O | C29H35N3O5S
